Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
gabapentin
 
Attending: ___.
 
Chief Complaint:
positive AFB sputum sample
 
Major Surgical or Invasive Procedure:
Right Heart Catheterization ___
Flexible bronchoscopy with tracheostomy exchange ___ 

 
History of Present Illness:
Mr ___ is a ___ with a PMH HFrEF (EF ___, HTN, HLD, 
severe MR, pAF, prostate CA and osteomyelitis who presents from 
rehab facility with concern for AFB positive sputum.

Since recent discharge on ___ patient has overall been well. He 
has been at ___ long term facility.

Regarding positive AFB sputum: patient overall feels well. 
Denies any new hemoptysis, fevers or worsening cough. He has no 
known exposure to TB, no recent travel. He has never lived 
outside the ___. 

Of note patient was admitted to ___ MICU from ___ with 
hypoxemic and hypercarbic respiratory failure in the setting of 
likely pneumonia and hypervolemia. During past admission, 
patient underwent multiple bronchoscopies with ___ for stenting 
and granulation tissue removal. He was treated for 14 days for 
post obstructive pneumonia and bronchial washings notable for E. 
Coli, MSSA and Klebsiella with Zosyn. 

In ED initial VS: T97.6 HR85 BP102/70  

Labs significant for:  
-Chemistry: BUN 53, Cr 1.1, HCO3 34
-CBC WBC 7, Hgb 8.5 Hct 27 Plt 133
-INR: 3.1, PTT 37.7
-VBG: pCO2 48, pH 7.50

Patient was given:  Nothing

Imaging notable for: 
CXR ___:
Tracheostomy tube remains in place.  Left PICC tip projects over 
the right atrium, similar to prior.  Elevation of left 
hemidiaphragm is again seen.  Right basilar opacity has improved 
in the interim, potentially atelectasis or resolving infection.  
Pulmonary edema has also resolved.  Cardiac silhouette is 
enlarged.  Median sternotomy wires are again seen. 

Consults:  ID: No empiric treatment needed

VS prior to transfer:  T97.5 HR 81, BP110/68 99% 6L NC

On arrival to the MICU,  patient confirms the above history and 
denies new cough, fevers, chills. 
 
Past Medical History:
Ascending Aortic Aneurysm 
Chronic Back Pain 
Congestive Heart Failure
Degenerative Joint Disease
Disc Herniation 
Gastroesophageal Reflux Disease
Hyperlipidemia
Hypertension  
Hyperlipidemia 
Osteomyelitis L1-L1 after steroid injection 
Prostate Cancer ___ prostatectomy and radiation 
Sleep Apnea
Staphylococcus epidermidis, ___ 6 weeks antibiotics 
Transient Ischemic Attack 

 
Social History:
___
Family History:
Mother deceased at the age of ___, had a history of lung cancer. 
Father deceased at the age of ___, had a history of prostate 
cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS: Reviewed in metavision  
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation anteriorly, transmitted upper 
airway sounds
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, multiple areas of scarring
SKIN:  thin paper skin
NEURO:  CN2-12 in tact

DISCHARGE PHYSICAL EXAM
98.2 96 /64 80 18 95 Tm 
GENERAL: Well-appearing, in NAD
HEENT: PERRLA, MMM, Tracheostomy in place with trach mask. Clear 
secretions, no bloody or purulent secretions surrounding trach 
or in trach mask.  
CV: Irregular rhythm, III/VI mid-systolic murmur heard best at L 
sternal border
RESP: Faint R basilar crackles, good air movement ___
GI: Abd soft, nontender/nondistended
Ext: R dorsal forearm with about 3-4 cm soft nontender 
non-fluctuant non-erythematous mass inferior to antecubital 
fossa; no peripheral edema

 
Pertinent Results:
ADMISSION LABS
___ 03:10PM BLOOD WBC-7.0 RBC-2.64* Hgb-8.5* Hct-27.0* 
MCV-102* MCH-32.2* MCHC-31.5* RDW-16.6* RDWSD-62.8* Plt ___
___ 03:50PM BLOOD ___ PTT-37.7* ___
___ 03:10PM BLOOD Glucose-109* UreaN-53* Creat-1.1 Na-143 
K-3.7 Cl-95* HCO3-34* AnGap-14
___ 03:10PM BLOOD ALT-12 AST-23 CK(CPK)-54 AlkPhos-91 
TotBili-0.4
___ 03:10PM BLOOD CK-MB-4 cTropnT-0.30* proBNP-73___*
___ 03:01AM BLOOD Calcium-9.5 Phos-4.4 Mg-2.1
___ 03:17PM BLOOD Type-CENTRAL VE pO2-67* pCO2-48* pH-7.50* 
calTCO2-39* Base XS-11 Comment-GREEN TOP 
___ 03:17PM BLOOD Lactate-0.8
___ 03:17PM BLOOD O2 Sat-92

INTERVAL LABS
___ 06:00AM BLOOD CK-MB-3 cTropnT-0.31* proBNP-4535*
___ 05:30AM BLOOD TSH-22*
___ 05:07AM BLOOD TSH-20*
___ 05:07AM BLOOD T4-3.5* T3-90 calcTBG-1.04 TUptake-0.96 
T4Index-3.4* Free T4-0.5*

DISCHARGE LABS
___ 05:07AM BLOOD WBC-6.8 RBC-2.26* Hgb-7.3* Hct-23.1* 
MCV-102* MCH-32.3* MCHC-31.6* RDW-15.9* RDWSD-58.9* Plt ___
___ 05:07AM BLOOD ___ PTT-32.1 ___
___ 05:07AM BLOOD Glucose-114* UreaN-29* Creat-0.9 Na-133* 
K-4.5 Cl-90* HCO3-34* AnGap-9*
___ 05:07AM BLOOD Calcium-9.2 Phos-3.5 Mg-2.1
___ 12:54PM BLOOD UricAcd-4.7 Iron-43*
___ 12:54PM BLOOD calTIBC-261 Ferritn-349 TRF-201

MICROBIOLOGY
BAL Cx ___: ACID FAST CULTURE (Preliminary): 
      Reported to and read back by ___ AND ___ ON
      ___, 14:47. 
      MYCOBACTERIUM AVIUM.    Identified by ___ Laboratory
___. 
         INTERPRET RESULTS WITH CAUTION. 
         POSITIVE CULTURE RESULTS LIKELY REPRESENT A LABORATORY
         CONTAMINATION EVENT..  CLINICAL CORRELATION SUGGESTED. 
         Reported to and read back by ___. 

TB Smear- negative x3
MTB NAAT- negative
 
___ 3:25 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL OF TWO COLONIAL 
MORPHOLOGIES. 
         PRESUMPTIVE IDENTIFICATION. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------    16 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------     1 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----     8 R

 
 
___ 10:02 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 

___ 3:20 pm BRONCHIAL WASHINGS      TRACHEOBRONCH. 

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 

   RESPIRATORY CULTURE (Preliminary): 
      >100,000 CFU/mL Commensal Respiratory Flora. 
      GRAM NEGATIVE ROD(S).    10,000-100,000 CFU/mL. 
      GRAM NEGATIVE ROD #2.    ~8000 CFU/mL. 
         FURTHER WORKUP ON REQUEST ONLY. 
         Isolates are considered potential pathogens in amounts 
>=10,000
         cfu/ml. 

   ACID FAST CULTURE (Preliminary): 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   FUNGAL CULTURE (Preliminary): 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      Test cancelled by laboratory. 
      PATIENT CREDITED. 
      if pulmonary Histoplasmosis, Coccidioidomycosis, 
Blastomycosis,
      Aspergillosis or Mucormycosis is strongly suspected, 
contact the
      Microbiology Laboratory (___). 

IMAGING/STUDIES

R forearm U/S ___- 10.9 x 3.5 x 4.5 cm heterogeneous mass is 
identified, likely intramuscular in location.  There is 
equivocal internal vascularity and solid mass cannot be 
excluded.  Further evaluation with MRI with contrast is 
recommended. 

CT RUE ___:
IMPRESSION:
1. Heterogeneous lesion measuring 10.1 x 3.2 x 3.7 cm centered 
in the proximal flexor digitorum superficialis muscle.  On this 
single phase post-contrast study, this is nonspecific in 
appearance and could reflect a hematoma in the appropriate 
clinical setting, although an abscess or neoplastic lesion 
cannot be excluded as outlined above.  On the prior ultrasound 
minimal if any internal vascularity was demonstrated making 
neoplasm less likely.  Recommend clinical follow-up to evaluate 
for growth/resolution and repeat ultrasound in 3 months to 
exclude a neoplastic process.
2. Multiple well-circumscribed lucencies throughout all carpal 
bones are
likely degenerative, although erosive changes cannot be 
excluded.  A dedicated wrist radiograph is recommended for 
further evaluation on a non-urgent basis.
3. Probable chondrocalcinosis.
4. Small elbow joint effusion.

CT CHEST ___:
IMPRESSION: 
1. Interval improvement in the patchy consolidative opacities 
bilaterally with residual dependent subsegmental atelectasis, 
left greater than right.  Mild residual nodular opacities. 
2. Trace left pleural effusion. 

TTE ___:
The left atrium is dilated. The right atrium is moderately 
enlarged. There is mild symmetric left ventricular hypertrophy 
with a normal cavity size. Global left ventricular systolic 
function is severely depressed secondary to a markedly 
dyssynchronous activation sequence (left bundle branch pattern).
The visually estimated left ventricular ejection fraction is 
20%. Mildly dilated right ventricular cavity with moderate 
global free wall hypokinesis. The aortic sinus diameter is 
normal with mildly dilated
ascending aorta. The aortic arch diameter is normal. An aortic 
valve bioprosthesis is present. The prosthesis is well seated 
with normal gradient. There is no aortic regurgitation. There is 
a bioprosthetic
mitral valve. The prosthesis is well-seated and normal gradient. 
There is mild [1+] mitral regurgitation.
Due to acoustic shadowing, the severity of mitral regurgitation 
could be UNDERestimated. The tricuspid valve leaflets appear 
structurally normal. There is mild [1+] tricuspid regurgitation. 
There is no
pericardial effusion.
IMPRESSION: Adequate image quality.

Right Heart Catheterization ___: 
Impressions:
1. Normal biventricular filling pressures
2. Normal PA pressures
3. (Cardiac output and index calculations may be not accurate, 
patient is on supplemental oxygen via
trach)

Video Oropharyngeal Swallow ___:
Penetration with nectar consistency without aspiration.
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a complex medical history, 
including ascending aortic aneurysm and endocarditis with severe 
AI/MR ___ with bioprosthetic AVR/MVR ___ c/b 
non-ischemic cardiomyopathy (EF ___, who was admitted 
___ with hypoxic respiratory failure secondary to E. Coli, 
MSSA, and Klebsiella pneumonia. Patient re-presented on ___ 
from rehab after bronchial washing culture from ___ grew AFB, 
speciated ___ with mycobaterium avium which was a contaminant. 
His course has been complicated by hypotension, UTI, and 
hemoptysis. Patient underwent right heart catheterization during 
hospitalization given unclear volume status, was found to be 
euvolemic with normal intra-cardiac and pulmonary pressures, was 
transitioned to PO torsemide 5 mg daily at discharge. Also 
underwent stent revision with interventional pulmonology prior 
to discharge.

#AFB Positive Sputum- M. avium CONTAMINANT
Patient previously underwent bronchoscopy on ___ during previous 
hospitalization, which grew E. Coli, MSSA and Klebsiella and was 
subsequently treated with a course of zosyn. However, AFB 
cultures were sent and returned positive on ___. He 
subsequently underwent a negative TB workup, with AFB smears 
negative X3, as were induced sputum and MTB nucleic acid test on 
___ speciation demonstrated mycobacterium avium, and in 
consultation with ID represented a contaminant and treatment was 
deferred. 

#HFrEF - With history of HFrEF (EF 25% ___, and non-ischemic 
cardiomyopathy likely secondary to complications from 
vegetation/endocarditis ___. During hospitalization was 
continued on home dose 60mg torsemide PO and required 
intermittent additional IV Lasix for SOB and volume overload, 
though diuresis was limited by prerenal ___ ___ and ongoing 
hypotension. Was thought to have had overdiuresis in the setting 
of hypotension, diuretics were subsequently held. Patient had 
persistent hypotension with SBP ___, also initially with concern 
for cardiogenic shock given patient was cool on exam. He was 
subsequently transferred to the CCU. Patient ultimately 
underwent right heart catheterization which demonstrated normal 
intracardiac pressures. Was not found to be in cardiogenic 
shock, and was euvolemic. Given baseline SBP 80-90s and limited 
by hypotension, patient was restarted on low-dose torsemide at 
5mg PO QD prior to discharge. Discharge weight 82.7kg.

#Chronic Hypoxic Hypercarbic Respiratory Failure - Patient is 
___ trach ___ after cardiogenic shock in the setting of 
vegetation/endocarditis with multiple valve failure. He was 
admitted this past month with post-obstructive pneumonia and 
multiple stents placed by ___. He underwent flex bronch and trach 
down-size to Portex #8 during hospitalization, with debridement 
of granulation tissue above the trach. He remained on 40% O2 by 
trach mask with O2 sats in the ___. Per ___ defer all 
therapeutic level anticoagulation for 3 days and ___ will arrange 
for follow-up 6 weeks post discharge.

#Hypotension - Patient persistently had baseline SBP 80-90s 
during hospitalization. Per above, was transferred to the CCU in 
the setting of hypotension and initially with concern for 
cardiogenic shock, however patient did not require inotropes or 
vasoactive support. RHC was normal per above. 

#Afib - With history of atrial fibrillation, was continued on 
rate control with metoprolol succinate 12.5mg XL QHS. Patient 
underwent stent revision with interventional pulmonology on 
___, warfarin was held prior to procedure, and per 
interventional pulmonology, therapeutic anticoagulation to be 
held for 3 days post procedure. Patient will be discharged on 
DVT prophylactic dosing of Lovenox. Given patient will need to 
be bridged with warfarin, recommend starting warfarin ___, 
and if remains subtherapeutic with goal INR ___ on ___ to 
start Lovenox therapeutic dosing SC BID. Dosing to be managed by 
___. 

#Hypothyroidism - With evidence of new hypothyroidism not having
previously been treated TSH 22, with free T4 3.6 for which
endocrine has been consulted. Patient was started on 
levothyroxine 25 mcg DAILY. Will make transitional issue to 
titrate synthroid dosing as indicated.

#E coli urinary tract infection 
#hematuria - Patient developed hematuria during hospitalization 
with some small clots noted in his Foley bag. UA was consistent 
with UTI and culture grew bactrim-resistant E. Coli. He was 
treated with a 7 day total course with ceftriaxone. Will require 
follow-up with urology given new hematuria. 

#Bloody tracheal secretions - Developed bloody secretions with 
trach suctioning ___ concerning for suction trauma. Of note 
during prior admissions patient has had bloody secretions while 
being anticoagulated, has been bronch'd in the past with no 
signs of a fistula. Bloody secretions ultimately resolved, and 
given patient's high risk of CVA (CHADS2VASC 5), anticoagulation 
was restarted. Risk/benefits were discussed with patient and his 
wife and they were in agreement with restarting. 

___ #?CKD
During hospitalization in ___ his baseline creatinine was 0.7. 
His creatinine slowly up-trended to 1.1 at discharge. Up to 1.4 
with additional diuresis therefore likely prerenal, now down to 
1. Of note also has persistently elevated BUN, no signs of GI 
bleed therefore most likely etiology is general cachectic state. 


#Left pleural effusion
Patient developed ___ pleural effusions with L chylothorax during 
CHF admission ___ and was discharged with L pleurx catheter 
that was being drained ___. During most 
recent admission, L pleurx in place but unclear if they were 
draining it. ___ attempted to drain pleurx but only drained 
<10cc straw-colored fluid, and most recent CXRs with no residual 
effusions. ___ was consulted and confirmed there was no effusion 
by putting the tube to suction overnight, with no output. The 
chest tube was pulled with no issues, and the patient did not 
show signs of reaccumulation. 

#Chronic Macrocytic Anemia
Hemoglobin remained at to above baseline in mid-8s, with mildly 
elevated MCV in low 100s. Normal B12 level in ___. He does 
have a history of GI bleeding but had no signs/symptoms 
suggestive of bleeding on this admission. Anemia is likely 
multifactorial and related to chronic illness. Can consider 
checking iron studies and repleting as needed. 

#Sacral decubitus ulcer, unstageable 
Patient has pressure ulcer (1.5 x 0.5 cm with minimal depth) 
causing moderate pain. No signs of infection.
- Appreciate wound care recs:
- Cleanse wound with wound cleanser or saline, pat dry
- Apply DuoDerm Gel into wound bed
- Cover with Mepilex Sacral foam border dressing
- Change every 3 days or as needed.

CHRONIC/RESOLVED ISSUES
=======================
#R arm mass
Patient complained of right forearm mass that had been there for 
a month and was decreasing in size. Exam was notable for a deep 
medial/dorsal forearm mass inferior to anterior cubital fossa 
with no fluctuance, erythema, or tenderness. CT ___ with 
heterogeneous lesion measuring 10.1 x 3.2 x 3.7 cm centered in 
the proximal flexor digitorum superficialis muscle concerning 
for hematoma vs abscess vs neoplastic lesion. US showed minimal 
internal vascularity, making neoplasm less likely. Abscess 
considered highly unlikely given no signs/sx of infection. 
Radiology recommended clinical monitoring and repeat US in 3 
months. Given chronicity of mass and fact that it was getting 
smaller, with no signs of disseminated infection, deemed 
reasonable to follow up as an outpatient. Patient will need 
repeat US 3 months.

#Anxiety
Patient has history of anxiety and problems sleeping at night 
while in hospital, which were managed with Ativan PO .5mg PRN.

#Chronic Abdominal Pain
He was continued on a standing bowel regimen and home PPI.

TRANSITIONAL ISSUES
====================
[ ] Discharged with sub-therapeutic INR given warfarin held 
prior to ___ procedure. Continue lovenox 40 SC daily, start 
warfarin dosing 5mg ___ and if remains sub-therapeutic ___, 
bridge with lovenox 1mg/kg BID. Goal INR ___
[ ] Discharge diuretic torsemide 5mg daily
[ ] Discharge weight 82.7kg
[ ] Consider outpatient titration of levothyroxine as indicated
[ ] Patient will require urology follow-up to be coordinated by 
PCP given new hematuria
[ ] Pt needs repeat RUE US for RUE mass (inferior to antecubital 
fossa) in 3 months. 
[ ] Incidental Findings: CT ___: Multiple well-circumscribed 
lucencies throughout all carpal bones are likely degenerative, 
although erosive changes cannot be excluded. A dedicated wrist 
radiograph is recommended for further evaluation on a non-urgent 
basis.
[ ] Macrocytic anemia: anemia is at baseline, can consider 
outpatient workup.

#CODE: Full
#CONTACT: Wife/HCP ___ (___)
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q3H:PRN wheezing 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. Fluticasone Propionate 110mcg 4 PUFF IH BID 
7. GuaiFENesin 10 mL PO Q6H thin secretions 
8. Lactulose 15 mL PO Q12H:PRN constipation 
9. Lidocaine 1% 2.5 mL IH TID:PRN trach collar trials if needed 
for coughing  
10. Lidocaine 5% Patch 1 PTCH TD QPM to lower back 
11. Mouth Care Oral Rinse ___ mL ORAL BID 
12. Multivitamins W/minerals 1 TAB PO DAILY 
13. Polyethylene Glycol 17 g PO DAILY 
14. Senna 17.2 mg PO BID:PRN Constipation 
15. Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush 
16. Thiamine 100 mg PO DAILY 
17. Acetylcysteine 20% ___ mL NEB Q12H 
18. Albuterol Inhaler 8 PUFF IH Q4H:PRN SOB 
19. Amiodarone 200 mg PO DAILY 
20. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
21. Ramelteon 8 mg PO QHS 
22. Simethicone 40-80 mg PO QID:PRN gas pain 
23. Torsemide 60 mg PO DAILY 
24. RisperiDONE Oral Solution 0.5 mg PO BID:PRN agitation 
25. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
26. Warfarin 5 mg PO DAILY16 
27. rOPINIRole 0.25 mg PO DAILY 
28. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1.  Enoxaparin Sodium 40 mg SC DAILY  
2.  Levothyroxine Sodium 25 mcg PO DAILY  
3.  Metoprolol Succinate XL 12.5 mg PO QHS  
4.  Torsemide 5 mg PO DAILY  
5.  ___  MD to order daily dose PO DAILY16  
6.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
7.  Acetylcysteine 20% ___ mL NEB Q12H  
8.  Albuterol 0.083% Neb Soln 1 NEB IH Q3H:PRN wheezing  
9.  Albuterol Inhaler 8 PUFF IH Q4H:PRN SOB  
10.  Amiodarone 200 mg PO DAILY  
11.  Aspirin 81 mg PO DAILY  
12.  Atorvastatin 40 mg PO QPM  
13.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation  
14.  Cyanocobalamin 1000 mcg PO DAILY  
15.  Fluticasone Propionate 110mcg 4 PUFF IH BID  
16.  GuaiFENesin 10 mL PO Q6H thin secretions  
17.  Lactulose 15 mL PO Q12H:PRN constipation  
18.  Lidocaine 1% 2.5 mL IH TID:PRN trach collar trials if 
needed for coughing   
19.  Lidocaine 5% Patch 1 PTCH TD QPM to lower back  
20.  Mouth Care Oral Rinse ___ mL ORAL BID  
21.  Multivitamins W/minerals 1 TAB PO DAILY  
22.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
23.  Pantoprazole 40 mg PO Q24H  
24.  Polyethylene Glycol 17 g PO DAILY  
25.  Ramelteon 8 mg PO QHS 
Should be given 30 minutes before bedtime  
26.  RisperiDONE Oral Solution 0.5 mg PO BID:PRN agitation  
27.  rOPINIRole 0.25 mg PO DAILY  
28.  Senna 17.2 mg PO BID:PRN Constipation  
29.  Simethicone 40-80 mg PO QID:PRN gas pain  
30.  Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush  
31.  Thiamine 100 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
- Chronic hypoxic respiratory failure
- HFrEF
- UTI
- Hypothyroidism
- Mycobacterium avium bronchoalveolar lavage contaminant
- Right arm mass
- Gross hematuria 

SECONDARY DIAGNOSIS
- Hyponatremia
- Atrial fibrillation
- Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at ___ 
___.  

WHY WERE YOU HERE?  
- You were admitted to the hospital because a type of bacteria 
called mycobacteria grew from your lungs, BUT it was found to be 
a contaminant, meaning it got in the test tube by mistake. 

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL?  
- While you were in the hospital, we did tests to make sure you 
do not have Tuberculosis, which you do not. 
- We helped take extra fluid out of your lungs to help you 
breathe better.
- We did imaging of your right arm mass, and this did not seem 
to be an abscess. You should have follow up of this in three 
months. 
- We found your urine has some blood in it. This is not normal, 
and we recommend you follow up with your primary care doctor for 
further evaluation of this.
- We also had the wound care nurses see you about the wound on 
your sacrum. We have given your facility instructions on how to 
care for this wound. 
-You underwent a procedure called a right heart catheterization 
which showed normal pressures in your heart
-You also underwent a stent revision by the interventional 
pulmonologist

WHAT SHOULD YOU DO WHEN YOU LEAVE?  
-Continue to take all your medications as prescribed
-Follow-up with her primary care physician ___ 1 week
-Please keep all of your other scheduled healthcare appointments 
listed below

Sincerely,

Your ___ Care Team  
 
Followup Instructions:
___